US04254116
5,5-Dimethyl-8-(1-cyclohexylethyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(1-cyclohexylethyl)-5H[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-(1-cyclohexylethyl)-5H[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C2CCCCC2)O)C=2C1=CC=NC2)C | C22H27NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(1-cyclohexylethyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)C2CCCCC2)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C31H42N2O3.ClH/c1-22(23-11-6-4-7-12-23)24-19-27(35-29(34)13-10-18-33-16-8-5-9-17-33)30-25-21-32-15-14-26(25)31(2,3)36-28(30)20-24;/h14-15,19-23H,4-13,16-18H2,1-3H3;1H
